US07645760B2
c) (E)-3-(7-Nitroquinolin-6-yl)-acrylic acid
(E)-3-(7-Nitroquinolin-6-yl)-acrylic acid methyl ester (470 mg, 1.82 mmol) in EtOH (9 ml) was treated with 2N NaOH (1.38 ml; 2.76 mmol) for 30 min. at 50° C. The reaction mixture was acidified with 2N HCl to pH 3.5 and extracted with EtOAc/EtOH (10/1) three times. The combined organic phases were washed with water, dried over Na2SO4 and evaporated to dryness to yield the title compound as colorless crystals (430 mg; 90%).

reactant | (E)-3-(7-Nitroquinolin-6-yl)-acrylic acid methyl ester | 1.82 mmol, 470 mg | COC(\C=C\C=1C=C2C=CC=NC2=CC1[N+](=O)[O-])=O | C13H10N2O4
reactant | NaOH | 2.76 mmol, 2N, 1.38 ml | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | EtOH | 9 ml | CCO | C2H6O
product | (E)-3-(7-Nitroquinolin-6-yl)-acrylic acid | 430 mg, 90% | [N+](=O)([O-])C1=C(C=C2C=CC=NC2=C1)/C=C/C(=O)O | C12H8N2O4
